US08349851B2
Preparation of (4-(1H-pyrazol-3-ylamino)-7-methoxyquinazolin-2-yl)(4-fluorophenyl)methanone
To ethyl 4-(1H-pyrazol-3-ylamino)-7-methoxyquinazoline-2-carboxylate (30 mg, 0.10 mmol) in dry DMA (2.5 mL) cooled in a −20° C. cooling bath was added dropwise 1N 4-fluorophenylmagnesium bromide in THF (0.306 mL, 0.306 mmol). After 2 h additional 1 N 4-fluorophenyl magnesium bromide (0.050 mL) was added. After 2 h, the reaction mixture was quenched by addition of a saturated ammonium chloride solution. The solution was concentrated and H2O was added. The precipitate was washed with water and purified by preparative thin layer chromatography on silica gel eluting with 10% MeOH/DCM to give a solid (21 mg, 60%) 1H NMR (300 MHz, DMSO-d6) δ ppm 3.93 (s, 3 H) 6.73 (br. s., 1 H) 7.29 (m., 2 H) 7.38 (m, 2H) 7.63 (br. s., 1 H) 8.08 (m, 2 H) 8.64 (m., 1 H) 10.63 (br. s., 1 H) 12.47 (br. s., 1 H) LC-MS (ESI) m/z 364 (M+H)+.

reactant | ethyl 4-(1H-pyrazol-3-ylamino)-7-methoxyquinazoline-2-carboxylate | 0.10 mmol, 30 mg | N1N=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)OC)C(=O)OCC | C15H15N5O3
reactant | 4-fluorophenylmagnesium bromide | 1N | FC1=CC=C(C=C1)[Mg]Br
reactant | THF | 0.306 mmol, 0.306 mL | C1CCOC1 | C4H8O
reactant | 4-fluorophenyl magnesium bromide | 1 N, 0.050 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | DMA | 2.5 mL | CC(=O)N(C)C | C4H9NO
product | (4-(1H-pyrazol-3-ylamino)-7-methoxyquinazolin-2-yl)(4-fluorophenyl)methanone | 21 mg, 60% | N1N=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)OC)C(=O)C1=CC=C(C=C1)F | C19H14FN5O2
